US06525054B1
(1) 2-chloro-3-cyanoimino-6-fluoro-7-nitro-4H-quinoxaline
To a solution of cyanamide 2.31 g in DMF 100 mL, was added sodium hydride (60% suspension in oil) 4.40 g under ice-cooling. The mixture was stirred at room temperature for 30 min, to which 2,3-dichloro-6-fluoro-7-nitroquinoxaline 13.10 g was added under ice-cooling, followed by raising slowly to room temperature. The resulting mixture was stirred at room temperature for 20 min, then which was poured into ice water containing 1N HCl 110 mL under stirring. The precipitation was collected by filtration and washed with water and i-PrOH to give the title compound 12.80 g.

reactant | cyanamide | 2.31 g | N#CN | CH2N2
reactant | sodium hydride | 4.40 g | [H-].[Na+]
reactant | 2,3-dichloro-6-fluoro-7-nitroquinoxaline | 13.10 g | ClC1=NC2=CC(=C(C=C2N=C1Cl)F)[N+](=O)[O-] | C8H2Cl2FN3O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-chloro-3-cyanoimino-6-fluoro-7-nitro-4H-quinoxaline | 12.80 g | ClC1=NC2=CC(=C(C=C2NC1=NC#N)F)[N+](=O)[O-] | C9H3ClFN5O2
